US06627660B1
Preparation of 1-[2(Trimethylsilyl)ethoxycarbonyloxy]pyrrolidin-2,5-dione (Teoc-0Su)
2-Trimethylsilylethyl carbonochloridate (4.8 g, 26.9 mmol) was taken up in dry acetronitrile (50 mL). The solution was cooled to 0° and solid N-hydroxysuccinimide (4.0 g, 34.8 mmol) was added with vigorous stirring followed by a solution of dry triethylamine (3.2 g, 31.6 mmol) in dry acetonitrile (5 mL). The mixture was stirred at low temperature for 15 minutes, then at room temperature overnight. The mixture was poured into water (200 ml) and extracted with ether (4×50 mL). The organic extracts were combined, washed with water (2×60 mL), 1 normal hydrochloric acid (60 mL), again water (60 mL), brine (60 mL), dried with magnesium sulfate and evaporated to dryness. The residue was taken up in boiling hexane (200 mL) and the solution allowed to cool. Crystallization was completed by storage at −15° C. (yield: 1.70 g).

reactant | 2-Trimethylsilylethyl carbonochloridate | 26.9 mmol, 4.8 g | C(OCC[Si](C)(C)C)(=O)Cl | C6H13ClO2Si
reactant | N-hydroxysuccinimide | 34.8 mmol, 4.0 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 31.6 mmol, 3.2 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-[2(Trimethylsilyl)ethoxycarbonyloxy]pyrrolidin-2,5-dione | C[Si](CCOC(=O)ON1C(CCC1=O)=O)(C)C | C10H17NO5Si
